US07714009B2
1-[3-Amino-5-fluoro-2-(methylamino)phenyl]-3-mesitylthiourea
In 75 mL of ethanol was mixed 1.30 g (6.04 mmol) of 4-fluoro-N-methyl-2,6-dinitroaniline, 3.7 mL (36 mmol) of cyclohexene and 5.1 g (2.4 mmol, 40 mol %) of 10% palladium on carbon (50% water, Degussa type). The mixture was refluxed for 2.5 h and filtered into a flask containing 0.77 g (7.3 mmol) of sodium carbonate and 1.07 g (6.04 mmol) of 2-isothiocyanato-1,3,5-trimethylbenzene. The resulting slurry was refluxed for 4 h, concentrated and slurried in dichloromethane. The slurry was filtered, concentrated and purified by flash chromatography eluting with a 70% hexanes/ethyl acetate mixture to give 0.65 g (32%) of the title compound as an off-white solid.

reactant | 4-fluoro-N-methyl-2,6-dinitroaniline | 6.04 mmol, 1.30 g | FC1=CC(=C(NC)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H6FN3O4
reactant | cyclohexene | 36 mmol, 3.7 mL | C1=CCCCC1 | C6H10
reactant | sodium carbonate | 7.3 mmol, 0.77 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-isothiocyanato-1,3,5-trimethylbenzene | 6.04 mmol, 1.07 g | N(=C=S)C1=C(C=C(C=C1C)C)C | C10H11NS
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.4 mmol, 5.1 g | [Pd] | Pd
product | 1-[3-Amino-5-fluoro-2-(methylamino)phenyl]-3-mesitylthiourea | 0.65 g, 32% | NC=1C(=C(C=C(C1)F)NC(=S)NC1=C(C=C(C=C1C)C)C)NC | C17H21FN4S
